US06043366
2-(8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-N,N-dimethyl-acetamide hydrochloride (1:1)
The title compound, white solid, m. p. 145° C. and MS: m/e=455.6 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and N,N-dimethyl-2-chioroacetamide.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | N,N-dimethyl-2-chioroacetamide | CN(C(CCl)=O)C | C4H8ClNO
product | 2-(8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-N,N-dimethyl-acetamide hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)N(C)C)=O)CC1 | InChI=1S/C27H42N4O2.ClH/c1-28(2)25(32)21-30-22-31(24-15-11-8-12-16-24)27(26(30)33)17-19-29(20-18-27)23-13-9-6-4-3-5-7-10-14-23;/h8,11-12,15-16,23H,3-7,9-10,13-14,17-22H2,1-2H3;1H
